US08283353B2
3′-fluoro-4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a mixture of 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.71 g), rhodium(I) acetate (0.006 g) and toluene (30 mL) was added dropwise ethyl diazoacetate (0.71 mL) at 80° C., and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography. The obtained residue was dissolved in tetrahydrofuran (15 mL), and methylmagnesium bromide (1.0 M tetrahydrofuran solution, 2.2 mL) was added at room temperature. The reaction mixture was stirred for 1 hr, 1 N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.18 g, 22%).

reactant | 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.71 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)O)=O)C=2C(=CC=CC2)C#N | C28H28FN5O2
reactant | ethyl diazoacetate | 0.71 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium(I) acetate | 0.006 g | C(C)(=O)[O-].[Rh+]
product | 3′-fluoro-4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.18 g, 22% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(C)(C)O)=O)C=2C(=CC=CC2)C#N | C32H36FN5O3
